US06320050B1
A solution of 3-fluoro-4-(trifluoromethyl)phenylacetic acid (2.50 g, 11.25 mmol) in methanol (25 mL) was treated slowly with 4 drops of concentrated sulfuric acid. The resulting reaction mixture was heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove methanol. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded (3-fluoro-4-trifluoromethyl-phenyl)-acetic acid methyl ester (2.58 g, 97%) as a colorless oil: EI-HRMS m/e calcd for C10H8F4O2 (M+) 236.0460, found 236.0457.

reactant | 3-fluoro-4-(trifluoromethyl)phenylacetic acid | 11.25 mmol, 2.50 g | FC=1C=C(C=CC1C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | methanol | 25 mL | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
product | (3-fluoro-4-trifluoromethyl-phenyl)-acetic acid methyl ester | 2.58 g, 97% | COC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O | C10H8F4O2
